US04661594
If 2-chloro-5,5-dimethyl-4-isopropyl-1,3,2-dioxaphosphorinane is reacted with N,N'-bis(2,2,6,6-tetramethyl-4-piperidyl)hexamethylenediamine in a procedure analogous to Example 1, N,N'-bis(5,5-dimethyl-4-isopropyl-1,3,2-dioxaphosphorinan-2-yl)-N,N'-bis(2,2,6,6-tetramethyl-4-piperidyl)hexamethylenediamine is obtained, which melts at 95°-97° (Compound No. 7).

reactant | 2-chloro-5,5-dimethyl-4-isopropyl-1,3,2-dioxaphosphorinane | ClP1OCC(C(O1)C(C)C)(C)C | C8H16ClO2P
reactant | N,N'-bis(2,2,6,6-tetramethyl-4-piperidyl)hexamethylenediamine | CC1(NC(CC(C1)NCCCCCCNC1CC(NC(C1)(C)C)(C)C)(C)C)C | C24H50N4
product | N,N'-bis(5,5-dimethyl-4-isopropyl-1,3,2-dioxaphosphorinan-2-yl)-N,N'-bis(2,2,6,6-tetramethyl-4-piperidyl)hexamethylenediamine | CC1(C(OP(OC1)N(CCCCCCN(C1CC(NC(C1)(C)C)(C)C)P1OCC(C(O1)C(C)C)(C)C)C1CC(NC(C1)(C)C)(C)C)C(C)C)C | C40H80N4O4P2
